US08476261B2
1A) Preparation of ethyl 3-[1-(hydroxymethyl)cyclopentylamino]-2-(2,3,4,5-tetrafluorobenzoyl)acrylate
A stirred solution of ethyl 3-oxo-3-(2,3,4,5-tetrafluorophenyl)propionate (3.17 g, 12 mmol), acetic anhydride (3.34 mL, 3.6 g, 30 mmol) and triethyl orthoformate (3.00 mL, 2.6 g, 18 mmol) was heated at 130° C. for 1.5 h. The mixture was concentrated in vacuo and dried under high vacuum for 3 hours. The crude product was dissolved in EtOH (15 mL) and cooled to 0° C. and then 1-amino-1-cyclopentanemethanol (1.01 g, 8.8 mmol) was added very slowly. After 1.5 h, the solvent was removed by evaporation to yield the title compound as yellow oil (3.1 g crude) that was used in the next step without further purification.

reactant | ethyl 3-oxo-3-(2,3,4,5-tetrafluorophenyl)propionate | 12 mmol, 3.17 g | O=C(CC(=O)OCC)C1=C(C(=C(C(=C1)F)F)F)F | C11H8F4O3
reactant | acetic anhydride | 30 mmol, 3.34 mL, 3.6 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethyl orthoformate | 18 mmol, 3.00 mL, 2.6 g | C(OCC)(OCC)OCC | C7H16O3
reactant | 1-amino-1-cyclopentanemethanol | 8.8 mmol, 1.01 g | NC1(CCCC1)CO | C6H13NO
product | ethyl 3-[1-(hydroxymethyl)cyclopentylamino]-2-(2,3,4,5-tetrafluorobenzoyl)acrylate | 3.1 g | OCC1(CCCC1)NC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)F)F)=O | C18H19F4NO4
